US07585975B2
3-Chloro-4-(thiazol-2-ylmethoxy)-phenylamine is prepared by added Zn dust (55.9 g, 856 mmol) to a mixture of 2-(2-chloro-4-nitro-phenoxymethyl)-thiazole (47.0 g, 190 mmol) in 5:1 MeOH:saturated aqueous NH4Cl solution (600 ml). After 2 h, the reaction mixture is filtered, and the filtrate concentrated. The resulting solid is triturated with water to give 3-chloro-4-(thiazol-2-ylmethoxy)-phenylamine (35.2 g, 85%).

reactant | 2-(2-chloro-4-nitro-phenoxymethyl)-thiazole | 190 mmol, 47.0 g | ClC1=C(OCC=2SC=CN2)C=CC(=C1)[N+](=O)[O-] | C10H7ClN2O3S
reactant | NH4Cl | 600 ml | [NH4+].[Cl-]
catalyst | Zn | 856 mmol, 55.9 g | [Zn] | Zn
solvent | MeOH | CO | CH4O
product | 3-chloro-4-(thiazol-2-ylmethoxy)-phenylamine | 35.2 g, 85% | ClC=1C=C(C=CC1OCC=1SC=CN1)N | C10H9ClN2OS
